US05606051
Allyl (5R,6S)-6-[(R)-1-hydroxyethyl]-2-(1-ethyl-5-methylpyrazol-3-yl)carbapen-2-em-3-carboxylate (267 mg) in dichloromethane (3 ml) and ethyl acetate (3 ml) under argon was treated with sodium 2-ethylhexanoate (183 mg), followed by triphenylphosphine (24 mg), followed by tetrakis(triphenylphosphine)palladium(0) (35 mg) and the mixture was stirred for 45 min. Diethyl ether (100 ml) was then added, and after stirring for 90 minutes, the mixture was centrifuged. The residual solid was dried under a stream of argon, and then in a desiccator. The solid was then taken up in water containing sodium chloride and chromatographed on DIAION HP20SS resin, eluting with water, followed by water/THF mixtures; 1%, 2%, and 3%, THF. Fractions were monitored by HPLC, and those containing the product were combined, reduced in volume and freeze-dried to give sodium (5R,6S)-6-[(R)-1-hydroxyethyl]-2-(1-ethyl-5-methylpyrazol-3-yl)carbapen-2-em-3-carboxylate as a solid (168 mg); νmax (KBr) 1761, 1608, 1577, 1381, 1225 cm-1 ; λmax (H2O)/nm 298 (ε/dm3 mol-1 cm-1 8,531); δ(D2O) 1.26 (d, J ca. 6 Hz), 1.27 (d, J ca. 7 Hz) (together 5H), 2.23 (3H, s), 3.17 (2H, approx d, J ca. 9 Hz), 3.44 (1H, dd, J 2.9 & 6.0 Hz), 4.04 (2H, q, J 7.3 Hz), 4.15-4.25 (2H, m), 6.41 (1H, s) ppm.

reactant | Allyl (5R,6S)-6-[(R)-1-hydroxyethyl]-2-(1-ethyl-5-methylpyrazol-3-yl)carbapen-2-em-3-carboxylate | 267 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C2=NN(C(=C2)C)CC)C(=O)OCC=C)C1=O | C18H23N3O4
reactant | sodium 2-ethylhexanoate | 183 mg | C(C)C(C(=O)[O-])CCCC.[Na+]
reactant | triphenylphosphine | 24 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | sodium (5R,6S)-6-[(R)-1-hydroxyethyl]-2-(1-ethyl-5-methylpyrazol-3-yl)carbapen-2-em-3-carboxylate | 168 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C2=NN(C(=C2)C)CC)C(=O)[O-])C1=O.[Na+] | InChI=1S/C15H19N3O4.Na/c1-4-17-7(2)5-10(16-17)9-6-11-12(8(3)19)14(20)18(11)13(9)15(21)22;/h5,8,11-12,19H,4,6H2,1-3H3,(H,21,22);/q;+1/p-1/t8-,11-,12-;/m1./s1
